US07704995B2
3-Amino-6-bromo-N-methylpyrazine-2-carboxamide (1.34 g, 5.8 mmol) and 3-hydroxyphenylboronic acid (1.2 g, 8.7 mmol) were taken into DMF (10 mL) followed by addition of [1,1′-bis(diphenylphosphinoferrocene]dichloropalladium (II) dichloromethane complex (440 mg, 0.54 mmol) and triethylamine (4.8 mL, 35 mmol). The mixture was heated to 95° C. for 12 hours then cooled to room temperature and diluted with an excess of ethyl acetate. The organic solution was washed with 0.5 M aqueous hydrochloric acid (1×), water (3×) then brine and dried over anhydrous magnesium sulfate. The mixture was then filtered and the organic solution concentrated and the residue purified by silica gel flash chromatography using ethyl acetate:hexanes (3:1) eluent. The pure fractions were combined and concentrated then dried in vacuo to give 3-amino-6-(3-hydroxyphenyl)-N-methylpyrazine-2-carboxamide (1.01 g, 71% yield) as a yellow solid: MS (EI) for C12H13N4O2: 245 (MH+).

reactant | 3-Amino-6-bromo-N-methylpyrazine-2-carboxamide | 5.8 mmol, 1.34 g | NC=1C(=NC(=CN1)Br)C(=O)NC | C6H7BrN4O
reactant | 3-hydroxyphenylboronic acid | 8.7 mmol, 1.2 g | OC=1C=C(C=CC1)B(O)O | C6H7BO3
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | triethylamine | 35 mmol, 4.8 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-amino-6-(3-hydroxyphenyl)-N-methylpyrazine-2-carboxamide | 1.01 g, 71% yield | NC=1C(=NC(=CN1)C1=CC(=CC=C1)O)C(=O)NC | C12H12N4O2
